US06251897B1
A solution of 3-cyclopentyloxy-4-methoxybenzaldehyde (10.00 g, 45.40 mM) in dried tetrahydrofuran (100 ml) was cooled to 0° C., a tetrahydrofuran solution of methyl magnesium bromide (136.20 mM) was dropped into this solution, and the resultant mixture was stirred at that temperature for 2 hours. A aqueous ammonium chloride was added to the solution obtained, which was then warmed to room temperature and extracted with ethyl acetate. The extract was successively washed with brine and water. The organic solution was dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to obtain crude product of 1-(3-cyclopentyloxy-4-methoxyphenyl)ethanol 10.67 g as a light yellow oil. The crude product thus obtained of 1-(3-cyclopentyloxy-4-methoxyphenyl)ethanol (10.67 g) was dissolved in dried methylene chloride (200 ml). Manganese dioxide (39.2 g) was added to this solution. The resultant product was stirred vigorously at room temperature for 16 hours. The undissolved material in the solution was removed by filtration through Celite, then the filtrate was concentrated in vacuo to obtain residue as a yellow oil. The residue was purified by flash chromatography (SiO2: eluted by 25% ethyl acetate/hexane). The solvent was removed in vacuo and the resultant product was dried to obtain 3-cyclopentyloxy-4-methoxyacetophenone 10.00 g (yield 94.4%) as a yellow oil.

reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 45.40 mM, 10.00 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | methyl magnesium bromide | 136.20 mM | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(3-cyclopentyloxy-4-methoxyphenyl)ethanol | 10.67 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(C)O | C14H20O3
